US04241050
Benzyl (3S, 5R)-Penam-3-Carboxylate 1,1-Dioxide
To a stirred solution of 1.80 g of (4R)-4-(2'-diazo-2'-benzyloxycarbonylethylsulfonyl)-2-azetidinone in 100 ml of 1,2-dimethoxyethane was added 3 mg of dirhodium tetraacetate. The reaction mixture was stirred for 1.5 hours and then a further 3 mg of dirhodium tetraacetate was added. Stirring was continued for 2.5 hours, and then the solvent was removed by evaporation in vacuo. The residue was dissolved in ethyl acetate, and the solution was washed twice with water at pH 8.5. The ethyl acetate solution was dried (Na2SO4) and evaporated in vacuo to give 0.88 g of product. This crude product was chromatographed on 26 g of silica gel and the product containing fractions were combined and evaporated. The residue was dissolved in boiling chloroform and then hexane was added to induce precipitation. The precipitate was recovered by filtration giving 131 mg of the title compound. The NMR spectrum (60 MHz; CDCl3) showed absorptions at 7.22 (s, 5H), 5.10 (s, 2H), 4.70 (m, 1H), 4.35 (m, 1H), 3.47 (m, 2H) and 3.32 (m, 2H) ppm. The IR spectrum (film) showed absorptions at 1800 and 1735 cm-1.

reactant | (4R)-4-(2'-diazo-2'-benzyloxycarbonylethylsulfonyl)-2-azetidinone | 1.80 g | [N+](=[N-])=C(CS(=O)(=O)[C@@H]1CC(N1)=O)C(=O)OCC1=CC=CC=C1 | C13H13N3O5S
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
catalyst | dirhodium tetraacetate | 3 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+3].[Rh+3]
catalyst | dirhodium tetraacetate | 3 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+3].[Rh+3]
product | Benzyl (3S, 5R)-Penam-3-Carboxylate 1,1-Dioxide | 0.88 g | S1(C[C@@H](N2[C@H]1CC2=O)C(=O)OCC2=CC=CC=C2)(=O)=O | C13H13NO5S
